US08809369B2
To a suspension of 60% sodium hydride (267.5 mg, 6.9 mmol) in N,N-dimethylformamide (2.5 mL) was added methanesulfonamide (0.66 g, 6.9 mmol) at room temperature. The resulting mixture was stirred at 25° C. for 1 h to afford Solution A80. A solution of 8,8-dimethyl-6-(3-morpholin-4-yl-phenyl)-5,6,7,8-tetrahydro-[1,5]naphthyridine-2-carboxylic acid (256.9 mg, 0.7 mmol) and 1,1′-carbonyldiimidazole (221.0 mg, 1.4 mmol) in N,N-dimethylformamide (2.0 mL) was stirred at 70° C. for 1 h and cooled to room temperature to afford Solution B80. Solution B80 was added to Solution A80 and the resulting mixture was stirred at 25° C. for 1 h. To the reaction mixture was added water (0.5 mL). The mixture was filtered to remove the insoluble solid, and the filtrate was purified by Waters automated flash system (column: Xterra 30 mm×100 mm, sample manager 2767, pump 2525, detector: ZQ mass and UV 2487, solvent system: acetonitrile and 0.1% ammonium hydroxide in water) afforded N-[8,8-dimethyl-6-(3-morpholin-4-yl-phenyl)-5,6,7,8-tetrahydro-[1,5]naphthyridine-2-carbonyl]-methanesulfonamide (93.2 mg, 30%) as a white solid: MS (ESI) M+1=445.1.

reactant | sodium hydride | 6.9 mmol, 267.5 mg | [H-].[Na+]
reactant | methanesulfonamide | 6.9 mmol, 0.66 g | CS(=O)(=O)N | CH5NO2S
reactant | 8,8-dimethyl-6-(3-morpholin-4-yl-phenyl)-5,6,7,8-tetrahydro-[1,5]naphthyridine-2-carboxylic acid | 0.7 mmol, 256.9 mg | CC1(CC(NC=2C=CC(=NC12)C(=O)O)C1=CC(=CC=C1)N1CCOCC1)C | C21H25N3O3
reactant | 1,1′-carbonyldiimidazole | 1.4 mmol, 221.0 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | N,N-dimethylformamide | 2.5 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 2.0 mL | CN(C=O)C | C3H7NO
solvent | water | 0.5 mL | O | H2O
product | N-[8,8-dimethyl-6-(3-morpholin-4-yl-phenyl)-5,6,7,8-tetrahydro-[1,5]naphthyridine-2-carbonyl]-methanesulfonamide | 93.2 mg, 30% | CC1(CC(NC=2C=CC(=NC12)C(=O)NS(=O)(=O)C)C1=CC(=CC=C1)N1CCOCC1)C | C22H28N4O4S
